US08871782B2
Cesium carbonate (5.7 g, 17.4 mmol, 2 eq) was added to a mixture of 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (2.5 g, 8.7 mmol, 1 eq), prepared as described in Examples 523-550 Parts A-D, 1-bromo-3-chloropropane (0.94 mL, 9.6 mmol, 1.1 eq), and 50 mL of N,N-dimethylformamide (DMF). The reaction mixture was stirred overnight. Analysis by HPLC indicated the reaction was incomplete. Additional cesium carbonate (2.85 g) was added to the reaction mixture and the mixture was heated to 50° C. overnight. Analysis by HPLC indicated the reaction was complete and the reaction mixture was poured into a brine solution (250 g of sodium chloride in 800 mL of deionized water). After 20 minutes, a dark brown/black material precipitated and was filtered The solid material was dissolved in chloroform, dried over magnesium sulfate, and purified by chromatography on a HORIZON HPFC system (eluting with a gradient of methanol/dichloromethane (20:80) in dichloromethane from 0:100 to 30:70). The combined fractions were concentrated, dissolved in dichloromethane and methanol, and concentrated under reduced pressure to yield 1.18 g of 8-(3-chloropropoxy)-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | Cesium carbonate | 17.4 mmol, 5.7 g, 2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 8.7 mmol, 2.5 g, 1 eq | OC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COC | C15H18N4O2
reactant | 1-bromo-3-chloropropane | 9.6 mmol, 0.94 mL, 1.1 eq | BrCCCCl | C3H6BrCl
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 2.85 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | brine | 800 mL, 250 g | [Cl-].[Na+].O
product | 8-(3-chloropropoxy)-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.18 g | ClCCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COC | C18H23ClN4O2
